US04833155
2 G (6.6 mmol) of 3-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole were added to a cooled, stirred suspension of 0.70 g of sodium hydride (50% in mineral oil) in 50 ml of anhydrous dimethylformamide under nitrogen. After 30 minutes at room temperature, 1.0 ml of benzyl bromide was added. Stirring at room temperature was continued for an additional 16 hours. The reaction mixture was poured over a 10% HCl-ice mixture, then extracted three times with 250 ml ethyl acetate. The organic layer was washed five times with 200 ml water, dried and evaporated to dryness. The residue was purified by chromatography on alumina (3% water, 100 g) eluting with hexane:ethyl acetate (9:1). Crystallization from methylene chloride-hexane gave 1.5 g of N-benzyl-3-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole (mp 123°-124° C.).

reactant | 3-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole | 6.6 mmol | C(C)(C)(C)C=1C=C(C(=O)C2=CNC=C2)C=C(C1O)C(C)(C)C | C19H25NO2
reactant | sodium hydride | 0.70 g | [H-].[Na+]
reactant | benzyl bromide | 1.0 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-benzyl-3-(3,5-di-t-butyl-4-hydroxybenzoyl)pyrrole | 1.5 g | C(C1=CC=CC=C1)N1C=C(C=C1)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C26H31NO2
